US06727267B2
5-(4-fluorophenylmethylene)-3-(benzenesulfonylamino)-4-oxo-2-thionothiazolidine:
3-(Benzenesulfonylamino)-4-oxo-2-thionothiazolidine 624 mg (2.17 mmol, 1.0 equiv) was combined with 349 μL 4-fluorobenzaldehyde (3.26 mmol, 1.5 equiv) and 18 mg NaOAc (0.217 mmol, 0.1 equiv) in 8 mL MeOH. The solution was allowed to stir for 5 h, at which time the resulting yellow solid was removed via filtration. The solid was washed (4×MeOH) and dried under vacuum to give the product as a yellow solid 83.5 mg (0.212 mmol, 10%). 1H NMR (DMSO, 400 MHz) δ 7.90-9.86 (m, 3 H), 7.77-7.70 (m, 3 H), 7.61 (t, J=8.8 Hz, 2 H), 7.42 (t, J=8.8 Hz, 2 H).

reactant | 3-(Benzenesulfonylamino)-4-oxo-2-thionothiazolidine | 2.17 mmol, 624 mg, 1.0 equiv | C1(=CC=CC=C1)S(=O)(=O)NN1C(SCC1=O)=S | C9H8N2O3S3
reactant | 4-fluorobenzaldehyde | 3.26 mmol, 349 μL, 1.5 equiv | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | NaOAc | 0.217 mmol, 18 mg, 0.1 equiv | CC(=O)[O-].[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | 5-(4-fluorophenylmethylene)-3-(benzenesulfonylamino)-4-oxo-2-thionothiazolidine | 0.212 mmol, 83.5 mg, 10% | FC1=CC=C(C=C1)C=C1C(N(C(S1)=S)NS(=O)(=O)C1=CC=CC=C1)=O | C16H11FN2O3S3
